US06919328B1
2Chloro-N-(2-hydroxy-phenyl)-5-nitrobenzamide
2-Chloro-5-nitro-benzoyl chloride in 60 mL of diethyl ether was added to an ice-cooled mixture of o-aminophenol (5.4 g) and sodium bicarbonate (8.3 g), water (36 mL) and ether (20 mL) over a period of 1 hour. The mixture was allowed to warm to room temperature and stirred overnight. The precipitate was filtered and washed sequentially with water (3×100 mL), 2N HCl (3×100 mL) and diethyl ether (3×50 mL). Yield 11.2 g (77%).

reactant | 2-Chloro-5-nitro-benzoyl chloride | ClC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | o-aminophenol | 5.4 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | sodium bicarbonate | 8.3 g | C([O-])(O)=O.[Na+]
reactant | water | 36 mL | O | H2O
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
product | 2Chloro-N-(2-hydroxy-phenyl)-5-nitrobenzamide | ClC1=C(C(=O)NC2=C(C=CC=C2)O)C=C(C=C1)[N+](=O)[O-] | C13H9ClN2O4
